US08685980B2
Using Buchwald Procedure A, 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carbonitrile (95 mg, 0.385 mmol) and 4-(6-amino-pyridin-3-yl)-2-methyl-piperazine-1-carboxylic acid tert-butyl ester (124 mg, 0.424 mmol) gave 4-[6-(6-cyano-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2-methyl-piperazine-1-carboxylic acid tert-butyl ester (128 mg) [following SiO2 chromatography eluting with 1-2.5% MeOH/dichloromethane and subsequent trituration with diethyl ether]. The material is used directly in the next step.

reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carbonitrile | 0.385 mmol, 95 mg | ClC=1N=CC2=C(N1)N(C(=C2)C#N)C2CCCC2 | C12H11ClN4
reactant | 4-(6-amino-pyridin-3-yl)-2-methyl-piperazine-1-carboxylic acid tert-butyl ester | 0.424 mmol, 124 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)C=1C=NC(=CC1)N)C | C15H24N4O2
product | 4-[6-(6-cyano-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2-methyl-piperazine-1-carboxylic acid tert-butyl ester | 128 mg, 1-2.5% | C(C)(C)(C)OC(=O)N1C(CN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(=C2)C#N)C2CCCC2)C | C27H34N8O2
